US06518458B1
Preparation of N-(2,6-Dimethylphenyl)-2-methylamino-acetamide
A closed stainless-steel reactor is charged with 80 g of N-(2,6-dimethylphenyl)-2-chloro-acetamide and 600 ml of a 40% aqueous methylamine solution. The mixture is heated with stirring at 80° C. for 4 h and then concentrated under vacuum. The crude product is taken up in water and washed with dichloromethane. The aqueous solution is basified using sodium hydroxide solution and extracted with dichloromethane. The organic, phase is dried over sodium sulphate and concentrated to give 60 g of a colourless oil.

reactant | N-(2,6-dimethylphenyl)-2-chloro-acetamide | 80 g | CC1=C(C(=CC=C1)C)NC(CCl)=O | C10H12ClNO
reactant | methylamine | CN | CH5N
product | N-(2,6-Dimethylphenyl)-2-methylamino-acetamide | 60 g | CC1=C(C(=CC=C1)C)NC(CNC)=O | C11H16N2O
